US05175157
2-[(N-(3-(3-Methyl-phenoxy)-propyl)-hexahydro-azepin-3-yl)methyl]-6,7-methylenedioxy-1-oxo-1,2.3,4-tetrahydro-isoquinolinehydrochloride
Prepared from 6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydroisoquinoline and N-[3-(3-methyl-phenoxy)-propyl]-3-chloromethylhexahydro-azepine analogously to Example 2.

reactant | 6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydroisoquinoline | C1OC=2C=C3CCNC(C3=CC2O1)=O | C10H9NO3
reactant | N-[3-(3-methyl-phenoxy)-propyl]-3-chloromethylhexahydro-azepine | CC=1C=C(OCCCN2CC(CCCC2)CCl)C=CC1 | C17H26ClNO
product | 2-[(N-(3-(3-Methyl-phenoxy)-propyl)-hexahydro-azepin-3-yl)methyl]-6,7-methylenedioxy-1-oxo-1,2.3,4-tetrahydro-isoquinolinehydrochloride | Cl.CC=1C=C(OCCCN2CC(CCCC2)CN2C(C3=CC4=C(C=C3CC2)OCO4)=O)C=CC1 | InChI=1S/C27H34N2O4.ClH/c1-20-6-4-8-23(14-20)31-13-5-11-28-10-3-2-7-21(17-28)18-29-12-9-22-15-25-26(33-19-32-25)16-24(22)27(29)30;/h4,6,8,14-16,21H,2-3,5,7,9-13,17-19H2,1H3;1H
